US08058045B2
Benzyl 4-((5-chloro-2-pivalamidopyridin-4-ylamino)methyl)piperidine-1-carboxylate (0.52 g, 1.12 mmol) was refluxed in 6M HCl (20 mL) for 2 hr. The volatiles were removed in vacuo and the residue was dissolved in MeOH and adsorbed onto Isolute SCX-II acidic resin. The resin was washed with methanol, then 2M ammonia in methanol. The basic fractions were concentrated to give crude 5-chloro-N4-(piperidin-4-ylmethyl)pyridine-2,4-diamine (0.234 g, 96%). LCMS (4) Rt=0.51 min; m/z (ESI+) 241 (MH+). Di-tert-butyl dicarbonate (0.21 g, 1 eq.) in dichloromethane (1 mL) was added dropwise to 5-chloro-N4-(piperidin-4-ylmethyl)pyridine-2,4-diamine (0.228 g, 0.95 mmol) and triethylamine (0.40 ml, 3 eq.) in dichloromethane (6.5 mL). The solution was stirred at room temperature for 2 hr. Solvents were evaporated and the crude product was purified by preparative thin layer chromatography, eluting with 8% MeOH, 1% NH3, 91% dichloromethane, to give tert-butyl 4-((2-amino-5-chloropyridin-4-ylamino)methyl)piperidine-1-carboxylate (109 mg, 34%) as a white powder.

reactant | Di-tert-butyl dicarbonate | 0.21 g, 1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-chloro-N4-(piperidin-4-ylmethyl)pyridine-2,4-diamine | 0.95 mmol, 0.228 g | ClC=1C(=CC(=NC1)N)NCC1CCNCC1 | C11H17ClN4
reactant | triethylamine | 0.40 ml, 3 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6.5 mL | ClCCl | CH2Cl2
product | tert-butyl 4-((2-amino-5-chloropyridin-4-ylamino)methyl)piperidine-1-carboxylate | 109 mg, 34% | NC1=NC=C(C(=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C16H25ClN4O2
